US07691877B2
(2-benzylamino-3-nitro-6-trifluoromethyl-pyridin-4-yl)-carbamic acid ethyl ester
(2-Chloro-3-nitro-6-trifluoromethyl-pyridin-4-yl)-carbamic acid ethyl ester (300 mg, 0.96 mmol) was dissolved in 10 mL of tetrahydrofuran and benzylamine (0.103 mL, 0.96 mmol) was added followed by triethylamine (0.194 mL, 1.91 mmol) and the reaction mixture was stirred at 60° C. overnight. The solvent was removed and the solid was partitioned in ethyl acetate/water (50 mL/30 mL), the organic layer was dried over MgSO4, concentrated and purified by column chromatography on silica eluting with a gradient of 0% to 10% of methanol in ethyl acetate in to give 323 mg of the title compound as a yellow solid.

reactant | (2-Chloro-3-nitro-6-trifluoromethyl-pyridin-4-yl)-carbamic acid ethyl ester | 0.96 mmol, 300 mg | C(C)OC(NC1=C(C(=NC(=C1)C(F)(F)F)Cl)[N+](=O)[O-])=O | C9H7ClF3N3O4
reactant | benzylamine | 0.96 mmol, 0.103 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 1.91 mmol, 0.194 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | (2-benzylamino-3-nitro-6-trifluoromethyl-pyridin-4-yl)-carbamic acid ethyl ester | 323 mg | C(C)OC(NC1=C(C(=NC(=C1)C(F)(F)F)NCC1=CC=CC=C1)[N+](=O)[O-])=O | C16H15F3N4O4
